US05473071
A mixture of 0.40 g (1.0 eq) of 4-[2-(2-amino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoic acid, 10 mL of pivalic anhydride, and 0.02 g (0.1 eq) of 4-(N,N-dimethylamino)pyridine is heated at reflux with stirring and under nitrogen for 6 hours. Fifty milliliters of diethyl ether are added and the solid collected by filtration. This is triturated with water and 1N sodium hydroxide is added dropwise until a clear solution is obtained (in order to hydrolyse any mixed anhydride which is present). The mixture is then acidified with glacial acetic acid and the solid which forms is collected by filtration and washed sequentially with water, methanol, acetone, and diethyl ether. The solid which forms in the filtrate is collected by filtration and washed with diethyl ether to yield 4-[2-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoic acid, m.p. >300° C.; IR (KBr) ν max 3420, 3200, 2945, 1680, 1607, 1569, 1448, 1401, 1250, 1154, 1018, and 812 cm-1 ; 1H NMR (dTFA, CDCl3) delta 9.03 (s, 1H (7)-H), 8.73 (s, 1H, (5)-H), 8.14 (d, J=8.2 Hz, 2H, Ar), 3.36 (t, J=7.4 Hz, 2H (6)-CH2 --), 3.24 (t, J=7.2 Hz, 2H, benzyl), 1.46 (s, 9H, t-butyl).

reactant | 4-[2-(2-amino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoic acid | 0.40 g, 1.0 eq | NC=1N=C(C2=C(N1)N=CC(=C2)CCC2=CC=C(C(=O)O)C=C2)O | C16H14N4O3
reactant | pivalic anhydride | 10 mL | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | diethyl ether | Fifty milliliters | C(C)OCC | C4H10O
catalyst | 4-(N,N-dimethylamino)pyridine | 0.02 g, 0.1 eq | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[2-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoic acid | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)CCC2=CC=C(C(=O)O)C=C2)O | C21H22N4O4
